US06380396B1
1-(Imidazol-1-yl)-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (0.86 g) (see Preparation 30) and triethylamine (1.3 ml) were dissolved in acetonitrile (15 ml), under a nitrogen atmosphere, the solution cooled in an ice-bath and 2-methoxybenzoyl chloride (1.4 ml) added, dropwise. The mixture was allowed to warm to room temperature slowly and then stirred for 2 days. The acetonitrile was removed under reduced pressure and the residue dissolved in dichloromethane (20 ml) and washed sequentially with water and brine. The organic phase was then dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with 97:3, by volume, dichloromethane:methanol to give 1-[2-(2-methoxybenzoyl)imidazol- 1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane (1.1 g) as an oil and as a mixture of diastereomers.

reactant | 1-(Imidazol-1-yl)-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 0.86 g | N1(C=NC=C1)CC(CCOC1OCCCC1)C1=CC(=C(C=C1)Cl)Cl | C18H22Cl2N2O2
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methoxybenzoyl chloride | 1.4 ml | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 1-[2-(2-methoxybenzoyl)imidazol- 1-yl]-2-(3,4-dichlorophenyl)-4-(tetrahydropyran-2-yloxy)butane | 1.1 g | COC1=C(C(=O)C=2N(C=CN2)CC(CCOC2OCCCC2)C2=CC(=C(C=C2)Cl)Cl)C=CC=C1 | C26H28Cl2N2O4
